US06489487B1
To a solution of 3.97 g (20 mmol) of 3-(1-hydroxyethyl)biphenyl in 60 ml of dry diethyl ether was added dropwise 2.70 g (9.0 mmol) of phosphorous tribromide with ice-cooling, and the mixture was further stirred with ice-cooling for 3 hours. To the reaction solution were added ice water and tert-butyl methyl ether. The mixture was stirred for 30 minutes and separated. The organic layer was washed successively with an about 5% aqueous solution of sodium bicarbonate and water, dried and concentrated to obtain 3.73 g (14.28 nmol) of 3-(1-bromoethyl)biphenyl as an oil.

reactant | 3-(1-hydroxyethyl)biphenyl | 20 mmol, 3.97 g | OC(C)C=1C=C(C=CC1)C1=CC=CC=C1 | C14H14O
reactant | phosphorous tribromide | 9.0 mmol, 2.70 g | P(Br)(Br)Br | Br3P
reactant | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 3-(1-bromoethyl)biphenyl | 14.28 nmol, 3.73 g | BrC(C)C=1C=C(C=CC1)C1=CC=CC=C1 | C14H13Br
